US04708824
At virtually the same temperature, triphenylphosphine also reacts with dichloro(phenyl)phosphine to give chloro(diphenyl)phosphine (German Pat. No. A-3,215,379):

reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | dichloro(phenyl)phosphine | ClP(C1=CC=CC=C1)Cl | C6H5Cl2P
product | chloro(diphenyl)phosphine | ClP(C1=CC=CC=C1)C1=CC=CC=C1 | C12H10ClP
